US05594023
3-Amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-1-(4-nitrobenzenesulfonyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 10 g of 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one and 7.55 g of 4-nitrobenzenesulfonyl chloride. The expected product is obtained after crystallization from a DCM/iso ether mixture. m=14 g. M.p.=202° C.

reactant | 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one | 10 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C1=C(C=CC=C1)Cl | C14H10Cl2N2O
reactant | 4-nitrobenzenesulfonyl chloride | 7.55 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | 3-Amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydro-1-(4-nitrobenzenesulfonyl)indol-2-one | NC1(C(N(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)C1=C(C=CC=C1)Cl | C20H13Cl2N3O5S
